US08211857B2
Carboplatin/Paclitaxel (Carboplatin And Taxane: CAT) Reference Solution
Control mice received the saline vehicular control by interperitoneal (i.p.) injection every day for 12 days. A constant dose of SorC13 (300 mg/kg) was used throughout the experiments and injected i.p. every day for 12 days. Low (20 mg/kg carboplatin, 6 mg/kg paclitaxel), medium (40 mg carboplatin, 12 mg/kg paclitaxel) and high (60 mg/kg carboplatin, 24 mg/kg paclitaxel) doses of CAT were injected i.p. on days 1, 4, 8 and 11 as set out in Table 10.

reactant | carboplatin | C1CC2(C1)C(=O)O[Pt](OC2=O)([NH3])[NH3]
reactant | paclitaxel | CC1=C2[C@H](C(=O)[C@@]3([C@H](C[C@@H]4[C@]([C@H]3[C@@H]([C@@](C2(C)C)(C[C@@H]1OC(=O)[C@@H]([C@H](C=5C=CC=CC5)NC(=O)C=6C=CC=CC6)O)O)OC(=O)C=7C=CC=CC7)(CO4)OC(=O)C)O)C)OC(=O)C | C47H51NO14
reactant | carboplatin | 40 mg | C1CC2(C1)C(=O)O[Pt](OC2=O)([NH3])[NH3]
product | Carboplatin Paclitaxel | C1CC2(C1)C(=O)O[Pt](OC2=O)([NH3])[NH3].CC1=C2[C@H](C(=O)[C@@]3([C@H](C[C@@H]4[C@]([C@H]3[C@@H]([C@@](C2(C)C)(C[C@@H]1OC(=O)[C@@H]([C@H](C=5C=CC=CC5)NC(=O)C=6C=CC=CC6)O)O)OC(=O)C=7C=CC=CC7)(CO4)OC(=O)C)O)C)OC(=O)C | InChI=1S/C47H51NO14.C6H8O4.2H3N.Pt/c1-25-31(60-43(56)36(52)35(28-16-10-7-11-17-28)48-41(54)29-18-12-8-13-19-29)23-47(57)40(61-42(55)30-20-14-9-15-21-30)38-45(6,32(51)22-33-46(38,24-58-33)62-27(3)50)39(53)37(59-26(2)49)34(25)44(47,4)5;7-4(8)6(5(9)10)2-1-3-6;;;/h7-21,31-33,35-38,40,51-52,57H,22-24H2,1-6H3,(H,48,54);1-3H2,(H,7,8)(H,9,10);2*1H3;/q;;;;+2/p-2/t31-,32-,33+,35-,36+,37+,38-,40-,45+,46-,47+;;;;/m0..../s1
